US06916956B2
Magnesium (10.7 g)was suspended in tetrahydrofuran (80 ml), and to the suspension was added iodine (5 mg). Bromocyclopropane (32.0 ml) was added dropwise thereto over 1.5 hr and the mixture was heated under ref lux for 1.5 hr. Thereto was added tetrahydrofuran to give a 1M cyclopropylmagnesium bromide-tetrahydrofuran solution. Subsequently, o-anisaldehyde (8.17 g) was dissolved in tetrahydrofuran (150 ml), the 1M cyclopropylmagnesium bromide-tetrahydrofuran solution (90 ml) was added dropwise thereto over 50 min under ice-cooling, and the mixture was stirred at room temperature for 12 hr. The reaction mixture was ice-cooled, a saturated aqueous ammonium chloride solution (9 ml) was added, and the reaction mixture was stirred at room temperature for 30 min. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=9:1) to give the title compound (6.13 g).

reactant | Magnesium | 10.7 g | [Mg] | Mg
reactant | iodine | 5 mg | II | I2
reactant | Bromocyclopropane | 32.0 ml | BrC1CC1 | C3H5Br
reactant | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | cyclopropylmagnesium bromide tetrahydrofuran | 1M | C1(CC1)[Mg]Br.O1CCCC1 | InChI=1S/C4H8O.C3H5.BrH.Mg/c1-2-4-5-3-1;1-2-3-1;;/h1-4H2;1H,2-3H2;1H;/q;;;+1/p-1
